US08378104B2
1-[4-(4-{7-amino-2-[3-(Pyridin-2-ylmethoxy)phenyl]furo[2,3-c]pyridin-4-yl}-1H-pyrazol-1-yl)piperidin-1-yl]ethanone
1-(4-{4-[7-Amino-2-(3-hydroxy-phenyl)-furo[2,3-c]pyridin-4-yl]-pyrazol-1-yl}-piperidin-1-yl)-ethanone (50 mg, 0.12 mmol) was dissolved in acetone (10 mL) and potassium carbonate (50 mg, 0.36 mmol) and 2-bromomethyl-pyridine (24 mg, 0.14 mmol) was added. The solution was stirred at RT overnight. After filtration the filtrate was concentrated and the residue was purified by preparative TLC (10% MeOH:DCM) to afford 8 mg (13%) of the title compound. 1H NMR (400 MHz, CD3OD): δ 8.56-8.57 (d, J=4 Hz, 1H), 8.17 (s, 1H), 7.85-7.93 (m, 3H), 7.74 (s, 1H), 7.66-7.68 (d, J=7.2 Hz, 2H), 7.54 (s, 1H), 7.39-7.43 (m, 2H), 7.10-7.12 (d, J=8 Hz, 1H), 5.29 (s, 2H), 4.65-4.72 (m, 1H), 4.49-4.60 (m, 1H), 4.06-4.14 (m, 1H), 3.33-3.35 (m, 1H), 2.80-2.88 (m, 1H), 2.20-2.27 (m, 2H), 2.16 (s, 3H), 1.95-2.11 (m, 2H); MS (ESI): 509.11 [M+H]+; HPLC tR=2.18 min (ZQ3: polar—4 min).

reactant | 1-(4-{4-[7-Amino-2-(3-hydroxy-phenyl)-furo[2,3-c]pyridin-4-yl]-pyrazol-1-yl}-piperidin-1-yl)-ethanone | 0.12 mmol, 50 mg | NC=1N=CC(=C2C1OC(=C2)C2=CC(=CC=C2)O)C=2C=NN(C2)C2CCN(CC2)C(C)=O | C23H23N5O3
reactant | potassium carbonate | 0.36 mmol, 50 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromomethyl-pyridine | 0.14 mmol, 24 mg | BrCC1=NC=CC=C1 | C6H6BrN
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 1-[4-(4-{7-amino-2-[3-(Pyridin-2-ylmethoxy)phenyl]furo[2,3-c]pyridin-4-yl}-1H-pyrazol-1-yl)piperidin-1-yl]ethanone | 8 mg, 13% | NC=1N=CC(=C2C1OC(=C2)C2=CC(=CC=C2)OCC2=NC=CC=C2)C=2C=NN(C2)C2CCN(CC2)C(C)=O | C29H28N6O3
